2157-02-21 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Admitted to ICU from OSH where he had been admitted since [**2-13**] with
   pneumococcal meningoencephalitis and mastoiditis with complications
   including L-sided numbness/neglect.  MRI on [**2-20**] prior to transfer
   preliminarily concerning for cerebritis.
   Neuro consulted overnight, Zosyn added to antibiotic coverage.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2157-2-21**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-2-21**] 04:20 AM
   Rifampin - [**2157-2-21**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-2-21**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2157-2-21**] 08:30 AM
   Other medications:
   Keppra, Rifampin, Lopressor, ASA, Lipitor, protonix, RISS, colace, HSQ,
   cipro otic gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria
   Neurologic: Numbness / tingling
   Flowsheet Data as of  [**2157-2-21**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 80 (63 - 93) bpm
   BP: 128/52(69) {128/52(69) - 143/83(97)} mmHg
   RR: 22 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             346 mL
   PO:
             120 mL
   TF:
   IVF:
   226 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    710 mL
   Urine:
   710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -364 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: R base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Sedated, Tone: Not
   assessed, L visual field cut, L dysdiadokinesia
   Labs / Radiology
   13.0 g/dL
   399 K/uL
   114 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   15 mg/dL
   98 mEq/L
   133 mEq/L
   35.7 %
   14.5 K/uL
        [image002.jpg]
                             [**2157-2-20**]  11:14 PM
   WBC
   14.5
   Hct
   35.7
   Plt
   399
   Cr
   0.8
   TropT
   <0.01
   Glucose
   114
   Other labs: PT / PTT / INR:15.2/33.9/1.3, CK / CKMB /
   Troponin-T:41//<0.01, Differential-Neuts:87.7 %, Lymph:9.3 %, Mono:1.9
   %, Eos:1.0 %, Lactic Acid:2.1 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.0 mg/dL
   Imaging: TTE (OSH):  EF 45%, no PFO
   MRI (OSH): as outlined in resident note
   CXR:  PICC in place, R pleural thickening.  No infiltrate.
   Microbiology: CSF:  GS + for diplococci, neg for HSV PCR
   BCx:  + for Pneumococci.
   Assessment and Plan
   68 yo male with pneumococcal meningitis with new onset neuro deficits
   Neuro symptoms: has occurred in conjunction with development of
   cerebritis on MRI which reportedly was not present several days ago.
   Presumably this explains his new neuro symptoms, but remains unclear
   whether this is a delayed sequelae of severe pneumococcal meningitis vs
   extension of infection, particularly in light of worsening mastoiditis.
   Per neurology overnight, frontal lesion seems to expanding.
     -Neurosurgery input today regarding collection noted on OSH MRI.
     -ENT eval
     -Continue Q4hour neuro checks
     -Continue prophylactic keppra for now
     -Will ask ID to weigh in regarding optimal antiobiotic coverage.
   Agree with adding Zosyn for now, but would continue PCN for CNS
   pneumococcal infection.
   CAD:  No signs or symptoms of active ischemia
     -Continue home BB, ASA
   DM:  Holding oral hypoglycemics for now.
   Rest of plan per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2157-2-21**] 12:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Patient is critically ill.
   Total time spent: 45 minutes

2157-02-22 09:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Seen by neurology, Nsurg, ENT, and ID yesterday.  ENT suctioned
   purulent material from middle ear.  Underwent head CT.
   Overnight developed diplopia and subsequently had witnessed seizure
   with post-ictal L paralysis and preferential gaze. Keppra increased.
   Diplopia resolved this AM.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2157-2-21**] 01:00 AM
   Rifampin - [**2157-2-21**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-2-21**] 12:45 PM
   Ceftriaxone - [**2157-2-21**] 10:00 PM
   Metronidazole - [**2157-2-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-2-21**] 10:47 PM
   Pantoprazole (Protonix) - [**2157-2-22**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2157-2-22**] 08:00 AM
   Other medications:
   Lopressor, ASA, lipitor, colace, keppra, cipro otic gtt, Dexameth otic
   gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-22**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 79 (59 - 94) bpm
   BP: 137/73(87) {116/55(72) - 185/91(115)} mmHg
   RR: 25 (17 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,692 mL
                                                                    294 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,572 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                    365 mL
   Urine:
                                                                  2,475 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -783 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed, L visual field cut.
   Altered L finger to nose.
   Labs / Radiology
   13.0 g/dL
   428 K/uL
   135 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   17 mg/dL
   103 mEq/L
   136 mEq/L
   36.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2157-2-20**]  11:14 PM
                             [**2157-2-22**]  04:32 AM
   WBC
   14.5
   12.6
   Hct
   35.7
   36.0
   Plt
   399
   428
   Cr
   0.8
   1.0
   TropT
   <0.01
   Glucose
   114
   135
   Other labs: PT / PTT / INR:16.8/33.4/1.5, CK / CKMB /
   Troponin-T:41//<0.01, Differential-Neuts:87.7 %, Lymph:9.3 %, Mono:1.9
   %, Eos:1.0 %, Lactic Acid:2.1 mmol/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Imaging: Head CT (prelim):  R subdural collection unchanged, could be
   c/w abscess.  Progression of sulcal effacement of adjacent R cortex.
   Unchanged R mastoid/middle ear opacification
   Microbiology: Middle ear GS:  budding yeast, GNR, GPR
   UCx:  NGTD
   BCx:  NGTD
   Assessment and Plan
   68 yo male with pneumococcal meningitis with new onset neuro deficits
   Neuro symptoms: At this point, development of focal neurologic deficits
   seems most likely related to cerebral edema adjacent to collection.
   The collection seems most likely related to extension from the
   otitis/mastoiditis.  ENT following and drained some fluid from middle
   ear yesterday.
     -Rediscuss with Neurosurgery & ENT re: optimal approach
 unlikely
   to resolved w/ abx therapy alone
     -Will continue to discuss abx coverage with ID, in light of new GS
   information.
     -Seizure descriptions sounds most c/w partial complex seizure
     -Keppra increasd overnight.  Will discuss with neuro whether EEG
   needed.
     -Per neurology overnight, no role for increasing serum osmolarity.
     -Continue Q4hour neuro checks, seizure precautions
    CAD:  No signs or symptoms of active ischemia
     -Continue home BB, ASA
    DM:  Holding oral hypoglycemics for now.
   Rest of plan per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-2-21**] 12:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Patient is criticially ill.
   Total time spent: 45 minutes

2157-02-23 09:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MRI yesterday definitively showed subdural empyema.
   NSurg/ENT discussed plans for mastoidectomy/drainage today.  Pt is
   currently an add-on for today.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2157-2-21**] 01:00 AM
   Rifampin - [**2157-2-21**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-2-21**] 12:45 PM
   Ceftriaxone - [**2157-2-22**] 10:00 PM
   Metronidazole - [**2157-2-23**] 08:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Lopresor, pantoprazole, RISS, HSQ, lipitor, colace, keppra, ciproflox
   otic gtt, Dexamethasone otic gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-2-23**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 75 (53 - 106) bpm
   BP: 137/67(83) {114/50(67) - 154/75(93)} mmHg
   RR: 21 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,340 mL
                                                                    913 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                    640 mL
                                                                    913 mL
   Blood products:
   Total out:
                                                                  1,722 mL
                                                                    610 mL
   Urine:
                                                                  1,722 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -382 mL
                                                                    303 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not
   assessed, L dysdiadokinesia, L field cut.
   Labs / Radiology
   13.2 g/dL
   447 K/uL
   127 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   19 mg/dL
   104 mEq/L
   138 mEq/L
   37.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2157-2-20**]  11:14 PM
                             [**2157-2-22**]  04:32 AM
                             [**2157-2-23**]  02:56 AM
   WBC
   14.5
   12.6
   12.2
   Hct
   35.7
   36.0
   37.9
   Plt
   399
   428
   447
   Cr
   0.8
   1.0
   0.9
   TropT
   <0.01
   Glucose
   114
   135
   127
   Other labs: PT / PTT / INR:15.2/30.3/1.3, CK / CKMB /
   Troponin-T:41//<0.01, Differential-Neuts:87.7 %, Lymph:9.3 %, Mono:1.9
   %, Eos:1.0 %, Lactic Acid:2.1 mmol/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.8 mg/dL
   Imaging: MRI:  unchanged subdural empyema with cerebritis.  No
   thrombosis
   Microbiology: Middle ear culture:  pending\
   BCx:  NGTD
   UCx:  NGTD
   Assessment and Plan
   68 yo male with pneumococcal meningitis with new onset neuro deficits
   Neuro symptoms: At this point, development of focal neurologic deficits
   seems most likely related to cerebral edema/cerebritis adjacent to
   collection.  The collection seems most likely related to extension from
   the otitis/mastoiditis.
     -Per discussions yesterday,  plan if for combined surgical approach
   with NSurg and ENT today.
     -Follow up cultures from middle ear and OR samples to guide
   antibiotics
     -Continue Keppra
     -Apparently, no signs of thrombosis on MRV
     -Continue Q4hour neuro checks, seizure precautions
    CAD:  No signs or symptoms of active ischemia
     -Continue home BB
     -Holding ASA for OR
    DM:  Holding oral hypoglycemics for now.
    Rest of plan per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2157-2-21**] 12:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes